US07678785B2
{(4-Bromophenyl)-[(E)-(3-phenylacryloyl)]amino}acetic acid, methyl ester
(4-Bromophenylamino)acetic acid, methyl ester (8.74 g, 0.036 mol) was treated with cinnamoyl chloride (11.99 g, 0.072 mol) in pyridine (50 mL) in the presence of 4-dimethylaminopyridine (0.489 g, 0.004 mol). The reaction mixture was stirred at room temperature for 2 h. The crude product was purified by flash column chromatography on silica gel, eluting with ethyl acetate/dichloromethane (1:20), to give the title compound as a white crystalline solid (13.13 g, 98%). 1HNMR (300 MHz) (CDCl3) δ 3.67 (3H, s), 4.42 (2H, s), 6.28 (1H, d, J=16 Hz), 7.19 (2H, d), 7.2-7.3 (5H, m), 7.51 (2H, d) and 7.66 (1H, d, J=16Hz).

reactant | (4-Bromophenylamino)acetic acid, methyl ester | 0.036 mol, 8.74 g | BrC1=CC=C(C=C1)NCC(=O)OC | C9H10BrNO2
reactant | cinnamoyl chloride | 0.072 mol, 11.99 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.004 mol, 0.489 g | CN(C1=CC=NC=C1)C | C7H10N2
product | {(4-Bromophenyl)-[(E)-(3-phenylacryloyl)]amino}acetic acid, methyl ester | 13.13 g, 98% | BrC1=CC=C(C=C1)N(C(\C=C\C1=CC=CC=C1)=O)CC(=O)OC | C18H16BrNO3
